Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Shellfish Derived / gabapentin
 
Attending: ___.
 
Chief Complaint:
Failure to thrive
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ male w/ hx emphysema, T2DM, TBI,
quadriplegia, chronic decubitus ulcers, recurrent bowel
obstruction and colonic dysfunction s/p subtotal colectomy with
end ileostomy ___ who presented on ___ from home with
failure to thrive. Admitted to inpatient for placement at rehab.

He was recently discharged on ___ after an admission for fecal
discharge from rectum. 

He returned to home (lives alone) with services, but over the
last week, it became clear that ___ cannot meet his needs. Per
the patient, ___ was coming twice daily initially but only able
to come at 4PM at the latest; given that he gets many nighttime
medications, he felt it was unacceptable that he was being
administered his nighttime medications at 4PM. He reports that
the ___ then reported that they were not able to continue to 
care
for him, thus prompting this presentation.

Otherwise, he reports no fever, new abdominal pain, chest pain,
difficulty breathing. His ostomy output is normal. He has been
eating well without difficulty.

In the ED:
- Initial vital signs were notable for:
T 97.9 HR 80 BP 128/79 RR 16 O2 Sat 99% RA

- Exam notable for:
Abdominal/GI: Soft, mildly tender diffusely, liquid/green ostomy
output
Otherwise unremarkable

- Labs were notable for: No labs done
- Studies performed include: No studies done
- Patient was given: Home medications
- Consults: 
-- Case management: Patient declined a bed offer at rehab so 
will
require inpatient admission for placement

Vitals on transfer: 
T 98.2 HR 87 BP 126/79 R R19 O2 Sat 96% Ra

Upon arrival to the floor, he reports that he feels the same as
he did at discharge from his most recent hospital stay. He is
upset as he has been in the ED bed for over 2 days and reports
that his back is very sore. He requests an air mattress.

He is also frustrated because he had not been able to get into
the rehabs that he wants. He reports case management downstairs
offered him a "one star rehab" and that ideally he would like to
get into ___ Extended Care. Per ED case management, he
declined 3 rehabs based on Medicare rating.

Regarding his hospital stay, he was admitted here from ___
for fecal incontinence from his rectum and increased ostomy
output. Initial CT A/P was concerning for enterocolonic fistula
but a repeat CT A/P on admission showed no evidence of fistula.
There was no evidence of infection or bleed on multiple ostomy
cultures. (Workup revealed C diff negative, bacterial stoo
cultures negative, guaiac negative). It was thought he may have 
a
possibly viral infectious colitis or enteritis. Gradually his
ostomy output decreased ans his rectal output resolved. He
resumed his home medications n discharge.  

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.
 
Past Medical History:
- He had a gunshot wound in ___ when he was ___ years old for
which he spent a month inpatient and approximately five months 
at rehab with subsequent quadriplegia.  
- He had an ileostomy in ___ secondary to constipation and
bloated and distended stomach and now has large amounts of 
watery output from his ostomy
- type 2 diabetes
- GERD
- Arthritis 
- Asthma, no attack in ___ yrs
- ___ Total abdominal colectomy, end ileostomy, takedown of
colostomy, mobilization of splenic flexure, parastomal hernia
repair with mesh
- IVC filter  
- ___ Rod placement in ___ secondary to curvature of the
spine due to immobility

 
Social History:
___
Family History:
Father: DM
Mother: ___ CA.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 98.2 BP 126 / 79 HR 87 RR 19 O2 Sat 96% Ra
GENERAL: Alert and interactive. Obese gentleman appears in some
discomfort.
EYES: NCAT. PERRL, EOMI. Sclera anicteric and without injection. 

ENT: MMM. 
Neck: Neck exam difficult given habitus.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Difficult to auscultate given habitus. Clear to
auscultation bilaterally. No wheezes appreciated. Normal work of
breathing.
ABDOMEN: Soft obese abdomen. Nondistended. Ostomy with loose
brown output, bowel sounds present, no organomegaly. There is no
rebound or guarding
GU: No foley
MSK/Extremities: Lower extremities in boots
SKIN: Warm. Cap refill <2s. He has a large 5 cm decubitus ulcer
which is tender and erythematous.
NEUROLOGIC: AOx3. Nonfocal neuro, grossly
PSYCH: Slightly agitated, no acute distress. Appropriate.

DISCHARGE PHYSICAL EXAM:
========================
VITALS: T 98.2f BP 104/65 HR 86 RR 18 SpO2 91% on RA  
HEENT:  NCAT. PERRL, EOMI. Sclera anicteric and without 
injection. MMM. Neck difficult to assess due to body habitus.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2.
RESP:  Clear to auscultation bilaterally in anterior and lateral 
lung fields.
ABDOMEN: Soft obese abdomen. Nondistended. Ostomy with loose 
brown output, bowel sounds present. No rebound or guarding.
GU: No foley
MSK/Extremities: Upper extremities contracted, right more than 
the left. Lower extremities in boots with trace edema.
SKIN: healing sacral decubitus ulcer
RECTUM: no stool leaking at time of exam
NEUROLOGIC: AOx3. Neuro exam grossly nonfocal.
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:23AM BLOOD WBC-6.8 RBC-5.04 Hgb-10.8* Hct-38.8* 
MCV-77* MCH-21.4* MCHC-27.8* RDW-26.5* RDWSD-70.8* Plt ___
___ 08:23AM BLOOD Glucose-173* UreaN-33* Creat-1.0 Na-138 
K-5.0 Cl-108 HCO3-16* AnGap-14
___ 08:23AM BLOOD Calcium-10.0 Phos-3.9 Mg-1.5*

INTERVAL LABS
=============
___ 09:00AM BLOOD WBC-5.6 RBC-5.06 Hgb-10.8* Hct-38.5* 
MCV-76* MCH-21.3* MCHC-28.1* RDW-26.3* RDWSD-69.6* Plt ___
___ 09:00AM BLOOD Glucose-209* UreaN-35* Creat-0.8 Na-140 
K-3.9 Cl-107 HCO3-18* AnGap-15
___ 09:00AM BLOOD Calcium-10.4* Phos-3.7 Mg-1.5*

DISCHARGE LABS
===============
___ 06:42AM BLOOD WBC-5.2 RBC-4.82 Hgb-10.4* Hct-36.4* 
MCV-76* MCH-21.6* MCHC-28.6* RDW-25.8* RDWSD-68.9* Plt ___

 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[ ]The patient has a blind pouch remaining of his rectum and 
sigmoid colon that does not communicate with his functioning 
ileum. However, there is chronic calcified stool in this remnant 
pouch that may leak out intermittently over the years to come. 
The calcified stool cannot be reached by disimpaction and 
surgery does not recommend any intervention for it. This leakage 
should be monitored and cleaned to avoid irritation of patient's 
sacral ulcers but otherwise does not require intervention.
[ ] Intermittently with hypomagnesemia this admission. Would 
recheck BMP in 7 days and consider supplementation as needed.

ACUTE ISSUES:
=============
# Failure to thrive
Patient presented from his rehab facility for failure to thrive. 
He refused rehab placement in ER and was subsequently admitted 
for placement. Case Management conducted bed search during 
admission; patient and family were agreeable with the facility 
choice. 

# Ileostomy s/p colectomy: 
# Residual/chronic calcified stool leakage
Usual ostomy care was continued. Ostomy and rectal output both 
guaiac negative. Patient had no concerns of ostomy output during 
admission but noted small stool leakage from rectum. 
Electrolytes were monitored and repleted. Continued home 
loperamide: changed from 4mg BID:PRN (admission dose) to ___ 
BID:PRN, based on pt's home regimen. Continued home 
diphenoxylate and atropine: changed from 1 tab BID:PRN 
(admission dose) to ___ tab BID:PRN, based on pt's home regimen. 
Prior CT scans were reviewed with radiology and discussed with 
colorectal surgery team.  Pt has a blind pouch remaining of his 
rectum and sigmoid colon that does not communicate with his 
functioning ileum. However, there is chronic calcified stool in 
this remnant pouch that may leak out intermittently over the 
years to come. The calcified stool cannot be reached by 
disimpaction and surgery does not recommend any intervention for 
it.

# Chronic unstageable sacral decubitus ulcer:
Followed chronically by wound care for sacral ulcers. Patient 
has bilateral gluteal ulcers with erosions and scant bleeding 
but no clear evidence of infection. Likely exacerbated by fecal 
incontinence. Patient was repositioned regularly. His wound was 
evaluated and monitored. Wound care consulted and provided 
recommendations; patient prefers to dictate his own wound care 
regimen. Air mattress was obtained to relieve pressure on 
ulcers.

# Iron deficiency anemia
Baseline Hgb ___. Prior Iron studies were consistent with iron 
deficiency, with ferritin 13. This is likely in setting of slow 
bleeding from sacral ulcer, with no clear evidence of GI 
bleeding (guaiac negative from ostomy and rectal output). He 
received IV iron on the last admission x4. Hgb and iron studies 
were rechecked and were substantially improved from prior - Hgb 
was stable from 10.4-10.8 during this admission, improved from 
Hgb of ___ last month. Continue to monitor every ___ months as 
outpatient.

CHRONIC ISSUES:
===============
# Spastic quadriplegia due to TBI:
# Contractures of upper extremities:
# Chronic pain:
# Possible seizure disorder:
Patient has history of quadriplegia resulting from remote TBI, 
with chronic, severe contractures of his upper extremities 
bilaterally. Per prior records, no prior history of seizures, 
but started on Keppra ___ due to history of "time skips" and 
post-ictal state. Continued home baclofen, tylenol, diazepam, 
keppra, and oxycontin. 

# Insulin-dependent T2DM:
A1c 8.6% ___. Continued home lantus, glipizide and ISS. Patient 
stated he no longer takes metformin, discontinued during 
admission. Patient also stated his home ISS starts at FSBG of 
150 but doesn't recall ISS units; ISS determined by ___ 
during last admission was continued during admission.

# COPD/Possible asthma: Not on O2 at home. No evidence of 
exacerbation. 
- Continued home advair

# HLD: 
- Continued home Cholestyramine

# BPH: 
- Continued home Tamsulosin

# GERD: 
- Received Omeprazole in place of home dexlansoprazole (NF); 
will restart home dexlansoprazole upon discharge.

# Depression: 
- Continued Home venlafaxine (also for neuropathic pain)

# ___ edema: 
- Continued home torsemide

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dexilant (dexlansoprazole) 60 mg oral DAILY 
2. Acetaminophen 1000 mg PO BID 
3. Baclofen 30 mg PO BID 
4. Cholestyramine 4 gm PO BID 
5. Diazepam 5 mg PO BID:PRN muscle spasm 
6. Diphenoxylate-Atropine 1 TAB PO BID:PRN diarrhea 
7. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
8. GlipiZIDE 10 mg PO DAILY 
9. HydrOXYzine 25 mg PO BID 
10. Ibuprofen 800 mg PO BID:PRN Pain - Mild 
11. LevETIRAcetam 500 mg PO BID 
12. LOPERamide 4 mg PO BID:PRN diarrhea 
13. OxyCODONE SR (OxyCONTIN) 10 mg PO Q12H 
14. Tamsulosin 0.4 mg PO QHS 
15. Torsemide 10 mg PO DAILY 
16. Venlafaxine XR 150 mg PO QHS 
17. Ascorbic Acid ___ mg PO DAILY 
18. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
19. Multivitamins W/minerals 1 TAB PO DAILY 
20. Silver Sulfadiazine 1% Cream 1 Appl TP DAILY 
21. Glargine 36 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Diphenoxylate-Atropine ___ TAB PO BID:PRN diarrhea  
2.  Glargine 36 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
3.  LOPERamide ___ mg PO BID:PRN diarrhea  
4.  Acetaminophen 1000 mg PO BID  
5.  Ascorbic Acid ___ mg PO DAILY  
6.  Baclofen 30 mg PO BID  
7.  Cholestyramine 4 gm PO BID  
8.  Dexilant (dexlansoprazole) 60 mg oral DAILY  
9.  Diazepam 5 mg PO BID:PRN muscle spasm 
RX *diazepam 5 mg 1 tablet by mouth twice a day Disp #*6 Tablet 
Refills:*0 
10.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
11.  GlipiZIDE 10 mg PO DAILY  
12.  HydrOXYzine 25 mg PO BID  
13.  Ibuprofen 800 mg PO BID:PRN Pain - Mild  
14.  LevETIRAcetam 500 mg PO BID  
15.  MetFORMIN XR (Glucophage XR) 500 mg PO BID  
16.  Multivitamins W/minerals 1 TAB PO DAILY  
17.  OxyCODONE SR (OxyCONTIN) 10 mg PO Q12H 
RX *oxycodone 10 mg 1 tablet(s) by mouth twice a day Disp #*6 
Tablet Refills:*0 
18.  Silver Sulfadiazine 1% Cream 1 Appl TP DAILY  
19.  Tamsulosin 0.4 mg PO QHS  
20.  Torsemide 10 mg PO DAILY  
21.  Venlafaxine XR 150 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses: failure to thrive
Secondary diagnoses: quadriplegia, type 2 diabetes, asthma, 
traumatic brain injury, chronic decubitus ulcers, recurrent 
bowel obstruction, colonic dysfunction status-post subtotal 
colectomy with end ileostomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
 Dear ___,  
 It was a pleasure taking care of you at the ___ 
___!  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You came to the hospital because you had requested placement 
to a different rehabilitation facility. You were monitored in 
the hospital while a search for a new facility was conducted. 

 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
 - You were monitored and continued on your home medications.

 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
 - Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 - please continue to take all of your medications as directed
 - please follow up with all the appointments scheduled with 
your doctor

 Thank you for allowing us to be involved in your care, we wish 
you all the best!  
 Your ___ Healthcare Team 
Dear ___,  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
 - You came to the hospital because you had requested placement 
to a different rehabilitation facility. You were monitored in 
the hospital while a search for a new facility was conducted. 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
 - You were monitored and continued on your home medications.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
 - Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 - Please continue to take all of your medications as directed
 - Please follow up with all the appointments scheduled with 
your doctor

 Thank you for allowing us to be involved in your care, we wish 
you all the best!  
 Your ___ Healthcare Team 
 
Followup Instructions:
___